US09023840B2
Step 4: 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid
A mixture of methyl 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate (0.15 g, 0.36 mmol) and lithium hydroxide monohydrate (46 mg, 1.1 mmol) in methanol (3 mL) and water (1 mL) was stirred at room temperature for 2 h. The mixture was concentrated under reduced pressure to afford the desired product (quantitative) which was directly used in the next step reaction without further purification.

reactant | methyl 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate | 0.36 mmol, 0.15 g | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)OC)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C21H18N8O2
reactant | lithium hydroxide monohydrate | 1.1 mmol, 46 mg | O.[OH-].[Li+]
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylic acid | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)O)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C20H16N8O2
